US04031093
Ethyl 1,6-dihydro-6-oxo-2-(2-cyclopropylmethoxyphenyl)pyrimidine-5-carboxylate
The title compound was prepared from 2-cyclopropylmethoxybenzamidine hydrochloride in a manner similar to that described for the preparation of ethyl 1,6-dihydro-6-oxo-2-(2-allyloxyphenyl)pyrimidine-5-carboxylate in Example 8. The product had m.p. 104°-105°.

reactant | 2-cyclopropylmethoxybenzamidine hydrochloride | Cl.C1(CC1)COC1=C(C(=N)N)C=CC=C1
reactant | ethyl 1,6-dihydro-6-oxo-2-(2-allyloxyphenyl)pyrimidine-5-carboxylate | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC=C)C(=O)OCC | C16H16N2O4
product | Ethyl 1,6-dihydro-6-oxo-2-(2-cyclopropylmethoxyphenyl)pyrimidine-5-carboxylate | O=C1C(=CN=C(N1)C1=C(C=CC=C1)OCC1CC1)C(=O)OCC | C17H18N2O4
